US09035101B2
Step B: Preparation of methyl 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxylate
Sodium hydroxide (50%, 3.50 g, 43.7 mmol) was added to a solution of hydroxylamine sulfate (1.8 g, 11.0 mmol) in water (22 mL). When the mixture had cooled to room temperature a portion of the mixture (˜50%) was added dropwise over 4 minutes to methyl 4-[3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalene-carboxylate (i.e. the product of Step A) (5.00 g, 11.0 mmol) in tetrahydrofuran (55 mL) at room temperature. After 30 minutes a further portion (˜10%) of the aqueous mixture was added. The mixture was stirred for a further 15 minutes. The mixture was partitioned between hydrochloric acid (1 N, 50 mL) and tert-butyl methyl ether (50 mL). The organic phase was evaporated, and the solid obtained was stirred in hot methanol. The mixture was cooled and filtered to give the product as a white solid (4.50 g, 87%) melting at 137.3-138° C. (after recrystallization from methanol). The following spectra were of the product recrystallized from methanol.

reactant | Sodium hydroxide | 43.7 mmol, 3.50 g | [OH-].[Na+]
reactant | hydroxylamine sulfate | 11.0 mmol, 1.8 g | S(=O)(=O)(O)O.NO
reactant | methyl 4-[3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalene-carboxylate | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F | C22H13Cl2F3O3
solvent | water | 22 mL | O | H2O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | methyl 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxylate | 4.50 g, 87% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F | C22H14Cl2F3NO3
